US05445762
4, 13-Bis(tert.-butylcarbonyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane
Analogously to Example 2 from 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane and pivalyl chloride.

reactant | 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | O1CCNCCOCCOCCNCCOCC1 | C12H26N2O4
reactant | pivalyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 4, 13-Bis(tert.-butylcarbonyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | C(C)(C)(C)C(=O)N1CCOCCOCCN(CCOCCOCC1)C(=O)C(C)(C)C | C22H42N2O6
